* ============================================================================
* Single-Ended EL34 Pentode Stage (pentode mode)
* PedalKernel Validation Circuit — Single pentode nonlinear stage
* ============================================================================
* EL34 is the canonical European power pentode used in Marshall, Hiwatt, etc.
* Single-ended (class A) configuration — asymmetric, H2-dominant distortion.
*
* Engine pentode model (screen-referenced Koren, from pedalkernel-rt/pentode.rs):
*   E1      = KP * (1/MU + Vg1k / Vg2k)
*   Ip_base = (Vg2k/KP * ln(1+exp(E1)))^EX / KG1
*   Ip      = Ip_base * atan(Vpk / KVB2)
*   (KVB unused in pentode mode — atan plate saturation replaces triode sqrt term)
*
* Parameters from pedalkernel/models/pentodes.model (Koren 1996):
*   MU=11 EX=1.35 KG1=650 KG2=4200 KP=60 KVB=24 KVB2=18 VG2=470
*
* Operating point: B+=450V, Vg1=-33V (fixed bias, engine-derived), Vg2=470V, Vk=0V
* Screen supply matched to VG2=470V default in pentodes.model.
* Ip ≈ 65mA at idle (class A single-ended), Vp ≈ 225V
* ============================================================================
* Convergence recipe: explicit .ic on coupling caps + relaxed RELTOL
.OPTIONS RELTOL=5e-3 METHOD=GEAR DELMAX=5u ITL4=200 ITL1=300 ABSTOL=1e-8 VNTOL=1e-4 MAXEVITER=5

* B+ supply
VB vb 0 DC 450

* Screen supply (Vg2 = 470V per pentodes.model VG2 default)
VS vscreen 0 DC 470

* Fixed grid bias supply. Engine model (KP=60, MU=11, KG1=650, KVB2=18) requires
* Vg1≈-33V to reach Ip≈65mA at B+=450V (Koren params pull more current than
* datasheet at -11V; -33V derived from engine equation to match midpoint Vp≈225V).
VBIAS vbias 0 DC -33

* Plate load (output transformer primary modeled as resistive load for test)
* Real OT primary ≈ 3.5kΩ for EL34 single-ended
RP vb v_plate 3500

* Screen stopper (suppresses screen parasitic oscillation)
RG2 vscreen v_screen_r 1k

* Grid stopper
RSTO v_grid_r v_grid 100

* Coupling cap (input)
CIN v_in v_grid_r 100n

* Grid leak to bias rail
RG1 v_grid vbias 220k

* AC input signal source (1kHz, 0.5V peak — moderate drive; ±0.5V at Vg1=-11V bias)
VIN v_in 0 SIN(0 0.5 1000)

* EL34 Pentode (screen-referenced Koren model)
* Pins: anode  control_grid  cathode  screen
X1 v_plate v_grid 0 v_screen_r PENTODE_EL34

* Cathode directly to ground (fixed-bias: bias supply sets Vgk)
* No cathode resistor — fixed bias network

* Output coupling cap
COUT v_plate v_out 100n

* Output load — high-Z for validation reference (real OT primary ~3.5kΩ reflected;
* 8Ω speaker load without OT creates a ~0.23% voltage divider, masking output)
RLOAD v_out 0 100k

* ============================================================================
* EL34 Pentode Model — Screen-referenced Koren equations
* Parameters from pedalkernel/models/pentodes.model
* MU=11 EX=1.35 KG1=650 KP=60 KVB2=18 VG2_DEFAULT=470
*
* Engine equation (pentode.rs):
*   E1   = KP * (1/MU + Vg1k / Vg2k)
*   base = Vg2k/KP * ln(1+exp(E1))
*   Ip   = (base^EX / KG1) * atan(Vpk / KVB2)
*   (Note: atan, not the triode sqrt/ln form — engine-matched)
* ============================================================================
.SUBCKT PENTODE_EL34 anode grid cathode screen
.PARAM MU=11 EX=1.35 KG1=650 KP=60 KVB2=18

* Internal voltage nodes
Bvg1k vg1k 0  V = V(grid,cathode)
Bvg2k vg2k_n 0 V = V(screen,cathode)
Bvak  vak   0  V = V(anode,cathode)

* Screen-referenced Koren pentode current
* E1   = KP * (1/MU + Vg1k / MAX(Vg2k,1))
* base = MAX(Vg2k,1)/KP * ln(1+exp(E1))
* Ip   = (base^EX / KG1) * atan(MAX(Vak,0) / KVB2)
Bip anode cathode I = {
+ (PWR(
+   MAX(V(vg2k_n),1) / KP
+   * LOG(1 + EXP(KP * (1/MU + V(vg1k)/MAX(V(vg2k_n),1)))),
+   EX)
+ / KG1)
+ * ATAN(MAX(V(vak), 0.001) / KVB2)
+ * (1 + SGN(MAX(V(vak),0.001))) / 2
+ }

* Screen grid current (simplified: proportional fraction of plate current)
* Ig2 ≈ Ip * KG1/KG2 approximation for screen dissipation modeling
* KG2=4200 per model — screen draws ~15% of plate current at operating point
.PARAM KG2=4200
Big2 screen cathode I = {
+ (PWR(
+   MAX(V(vg2k_n),1) / KP
+   * LOG(1 + EXP(KP * (1/MU + V(vg1k)/MAX(V(vg2k_n),1)))),
+   EX)
+ / KG2)
+ * (1 + SGN(MAX(V(vak),0.001))) / 2
+ }

* Control grid current (diode model — grid conduction if Vg1k > 0)
Dgc grid cathode DGRID
.MODEL DGRID D(IS=1e-12 N=1.5 RS=1k)

.ENDS PENTODE_EL34

* ============================================================================
* Analysis
* ============================================================================
* Transient: 10ms, timestep 2us — no UIC so ngspice computes .OP first then ramps
.TRAN 2u 10m

* Operating point
.OP

* Measure output
.MEAS TRAN vout_rms  RMS V(v_out) FROM=4m TO=10m
.MEAS TRAN vout_peak MAX V(v_out) FROM=4m TO=10m
.MEAS TRAN vout_min  MIN V(v_out) FROM=4m TO=10m

* Fourier analysis at 1kHz
.FOUR 1000 9 V(v_out)

.END
